US04385058
Ammonium persulphate (54.8 g) in water (150 ml) and 4-cyanobutyric acid (68 g) in water (300 ml) were added separately and simultaneously over 30 minutes to a mixture of 4-dimethylaminomethylpyridine (16.32 g), silver nitrate (4 g), water (200 ml) and concentrated sulphuric acid (25 ml) stirred at 80°. The reaction mixture was stirred at 80° for 1.5 hours, cooled, poured onto crushed ice (400 g) and aqueous ammonia (28% w/w, 200 ml). The solution was extracted with chloroform (900 ml) and the chloroform extracts were washed with dilute sodium hydroxide, dried over magnesium sulphate, and concentrated in vacuo to give 2-(3-cyanopropyl)-4-dimethylaminomethylpyridine (9 g) as a clear oil b.p. 110°-112°/0.1 mm Hg.

reactant | Ammonium persulphate | 54.8 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | 4-cyanobutyric acid | 68 g | C(#N)CCCC(=O)O | C5H7NO2
reactant | 4-dimethylaminomethylpyridine | 16.32 g | CN(C)CC1=CC=NC=C1 | C8H12N2
reactant | sulphuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | 200 ml | N | H3N
solvent | water | 150 ml | O | H2O
solvent | water | 300 ml | O | H2O
catalyst | silver nitrate | 4 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 200 ml | O | H2O
product | 2-(3-cyanopropyl)-4-dimethylaminomethylpyridine | 9 g | C(#N)CCCC1=NC=CC(=C1)CN(C)C | C12H17N3
